datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[Si:63](C)(C)[O:12]/[C:11](=[CH:10]\C1=CC=CC=C1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1>>CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10](C2=CC=CC=C2)[C:11](=[O+:12][Si:63](C)(C)C)[C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CN1C(=O)C(CC2=CNC3=CC=CC=C23)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.FC(F)(F)[S:61]([CH-:10][C:81]1=[CH:82][CH:83]=[C:84]([N+:85](=[O:86])[O-:106])[CH:93]=[CH:92]1)(=[O:62])=[O:72]>>CN1C(=O)C(CC2=CNC3=CC=CC=C23)[N:23]([CH:22]=[CH:21][CH:20]([CH:10]([S:61](C(F)(F)F)(=[O:62])=[O:72])[C:81]2=[CH:82][CH:83]=[C:84]([N+:85](=[O:86])[O-:106])[CH:93]=[CH:92]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10=20;20,21=21,22;22,23=23"
"CC[O:33][C:22](/[CH:21]=[CH:20]/[C:41](=[O:42])[O:52]CC)=[O:23].CO/[C:10](C1=CC=CC=C1)=[C:11]1\[N:12](C)[C:64](C)=[C:63](C)[S:62]1>>CC[O:33][C:22](=[CH:21][CH:20]([C:10](OC)(C1=CC=CC=C1)[C:11]1=[N+:12](C)[C:64](C)=[C:63](C)[S:62]1)[C:41](=[O:42])[O:52]CC)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][CH:51]=[CH:52][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.C[C:11](=[CH2:10])[CH2:62][Si:63](C)(C)C>>C[C+:11]([CH2:10][CH:20]([C:31]1=[CH:36][C:35]2=[C:34]3N(CCC[C:33]3=[CH:32]1)CCC2)[CH:51]=[CH:52][C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[CH2:62][Si:63](C)(C)C 10,11=10,20"
"C1C[O:62][C:11]([H:10])([C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)[O:12]1.O=S(=O)(C(F)(F)F)[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:33]([N+:22]([O-])=[O:23])=[CH:32]1>>C1C[O:62][C:11]([C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)=[O+:12]1.O=S(=O)(C(F)(F)F)[C:21]12[CH:20]([H:10])[C:41]3=[N+:42]([O-])O[N:35]=[C:34]3[C:33](=[CH:32]1)[N+:22]2([O-])[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:72][C:61](/[C:10](C)=[C:11](/C)[O-:12])=[O:62].COC1=CC2=C(C=C1)[N+:23](C)=[CH:22][C:21]2=[CH:20][C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2>>CC[O:72][C:61]([C:10](C)([C:11](C)=[O:12])[CH:20]([C:21]1=[CH:22][N:23](C)C2=C1C=C(OC)C=C2)[C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[CH:10](=[C:11]=[N-:12])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([C:11]#[N:12])[C:71]2=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]2)[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
CCC[NH:10]CCC.C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CCC[NH+:10](CCC)[C:20]([C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10=20
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC[Pb:63](CC)(CC)[CH2:62][CH2:11][H:10]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)=[CH:22]1.CC[Pb:63](CC)(CC)[CH2:62][CH2+:11] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:33][C:22](/[CH:21]=[CH:20]/C)=[O:23].CC[Si:63](CC)(CC)[CH2:62][CH2:11][H:10]>>CC[O:33][C:22](=[CH:21][CH:20](C)[H:10])[O-:23].CC[Si:63](CC)(CC)[CH2:62][CH2+:11] 10,11=10,20;20,21=21,22;22,23=23"
"C/[CH:10]=[CH:11]/[CH:62]=[CH:63]/C.CN1CCC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CCC3)[CH:45]=[CH:46]1)=[CH:32]2>>CN1CCC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH:20]([CH:10](C)[CH+:11]/[CH:62]=[CH:63]/C)[C:41]1=[CH:42][C:43]3=[C:44](N(C)CCC3)[CH:45]=[CH:46]1)=[CH:32]2 10,11=10,20"
"C[NH:10][N:61](C)C.FC(F)(F)[S:20][N:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:42](C1=CC=CC=C1)(=[O:43])=[O:44]>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.C[NH+:10]([S:20]C(F)(F)F)[N:61](C)C 10=20;20,21=21"
"C[O:14][C:13]1=[CH:12][CH:11]=[CH:10][CH:62]=[CH:61]1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH+:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>C[O+:14]=[C:13]1[CH:12]=[CH:11][CH:10]([CH:20]([C:31]23C4[Co-3:32]2(C#[O+])(C#[O+])(C#[O+])[Co-3:42]43(C#[O+])(C#[O+])C#[O+])[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:62]=[CH:61]1 10,11=10,20;12,13=11,12;14=13,14"
